US05434165
3-[2-(1-Azabicyclo[3.3.0]octan-5-yl)-ethyl]amino-4-nitroquinoline 1-oxide
3-Bromo-4-nitroquinoline 1-oxide and 2-(1-azabicyclo[3.3.0]octan-5-yl)ethylamine were reacted in the same manner as in Example 1 to obtain the titled compound in a yield of 87.4%.

reactant | 3-Bromo-4-nitroquinoline 1-oxide | BrC=1C=[N+](C2=CC=CC=C2C1[N+](=O)[O-])[O-] | C9H5BrN2O3
reactant | 2-(1-azabicyclo[3.3.0]octan-5-yl)ethylamine | N12CCCC2(CCC1)CCN | C9H18N2
product | 3-[2-(1-Azabicyclo[3.3.0]octan-5-yl)-ethyl]amino-4-nitroquinoline 1-oxide | yield of 87.4% | N12CCCC2(CCC1)CCNC=1C=[N+](C2=CC=CC=C2C1[N+](=O)[O-])[O-] | C18H22N4O3
